US09216980B2
Step 3: 3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A 1N solution of bis(trimethylsilyl)amide in THF (2.78 mL, 2.80 mmol) was added dropwise to a solution of 5-(4-piperidin-1-ylmethyl-phenyl)-2-fluoro-[3,4]bipyridinyl-3′-ylamine (101 mg, 0.278 mmol) in THF (5.0 mL) at ambient temperature. The mixture was stirred for 1 h at ambient temperature and then treated with water. The resultant brown solution was partitioned between DCM and water, the layers separated, and the aqueous phase extracted into 20% methanol in DCM. The combined organic phase was concentrated in vacuo. The resultant residue was absorbed onto silica gel, and purified by flash chromatography (silica, 1-20% methanol in DCM) to provide a light orange-yellow solid (39.9 mg, 42%). 1H NMR. (DMSO-D6, 500 MHz): 12.24 (s, 1H), 8.99 (d, J=1.8 Hz, 1H), 8.93 (s, 1H), 8.92 (d, J=1.8 Hz, 1H), 8.45 (d, J=5.2 Hz, 1H), 8.22 (d, J=5.2 Hz, 1H), 7.77 (d, J=7.5 Hz, 2H), 7.45 (d, J=7.5 Hz, 2H), 3.49 (s, 2H), 2.36 (m, 4H), 1.52 (m 4H), 1.41 (m, 2H). LCMS (Method D): RT=4.64 min, M+H+=343.

reactant | bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C
reactant | 5-(4-piperidin-1-ylmethyl-phenyl)-2-fluoro-[3,4]bipyridinyl-3′-ylamine | 0.278 mmol, 101 mg | N1(CCCCC1)CC1=CC=C(C=C1)C=1C=C(C(=NC1)F)C1=C(C=NC=C1)N | C22H23FN4
reactant | water | O | H2O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.80 mmol, 2.78 mL | C1CCOC1 | C4H8O
product | 3-(4-Piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 39.9 mg, 42% | N1(CCCCC1)CC1=CC=C(C=C1)C1=CC2=C(NC3=C2C=CN=C3)N=C1 | C22H22N4
